US04835312
Preparation of N-2-cyanoethyl-N-methylmethacrylamide
To 150 ml of N,N-dimethylformamide, were added 28 g of potassium hydroxide, 17 g of methacrylamide, 23 g of 3-chloropropionitrile and 0.05 g of phenothiazine. A reaction was carried out at 40° C. for 3 hours with stirring.

reactant | potassium hydroxide | 28 g | [OH-].[K+]
reactant | methacrylamide | 17 g | C(C(=C)C)(=O)N | C4H7NO
reactant | 3-chloropropionitrile | 23 g | ClCCC#N | C3H4ClN
reactant | phenothiazine | 0.05 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-2-cyanoethyl-N-methylmethacrylamide | C(#N)CCN(C(C(=C)C)=O)C | C8H12N2O
